US05324711
Preparation of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde semicarbazone
A mixture of 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde (0.0295 mole), semicarbazide hydrochloride (4.0 g, 0.035 mole), and sodium acetate (5.8 g, 0.071 mole) in aqueous ethanol is heated to reflux temperature, cooled and filtered. The solid filter cake is recrystallized from ethanol to give the title compound as a solid, mp 170°-171° C., identified by elemental and NMR analyses.

reactant | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde | 0.0295 mole | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C=O)C)C1)F)C(F)(F)F | C16H10ClF4N3O2
reactant | semicarbazide hydrochloride | 0.035 mole, 4.0 g | Cl.NNC(=O)N
reactant | sodium acetate | 0.071 mole, 5.8 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 6-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]-α-methyl-1H-benzotriazole-1-acetaldehyde semicarbazone | ClC1=C(C(=CC(=C1)OC=1C=CC2=C(N(N=N2)C(C=NNC(=O)N)C)C1)F)C(F)(F)F | C17H13ClF4N6O2
